US05929085
(a) 4-Hydroxy-2,3,4,5-tetrahydro-1H-2-benzazepin-8-amine hydrochloride
A suspension of 4hydroxy-8-nitro-2,3,4,5-tetrahydro-1H-2-benzazepine hydrochloride (1.80 g, 7.36 mmol) (G. L. Grunewald and V. H. Dahanukar, J. Heterocycl. Chem., 1994, 31, 1609) and 5% Pd--C (0.2 g) in ethanol (100 ml) was hydrogenated at 50 psi for 2 h. The catalyst was filtered off and the solvent was concentrated to give a solid. This solid was dissolved in hot ethanol (50 ml) and ether (200 ml) was added slowly. The solid was collected, washed with ether (100 ml) and air-dried to give the title compound as a yellow solid (1.44 g, 91%), mp. 232.5-4° C.

reactant | 4hydroxy-8-nitro-2,3,4,5-tetrahydro-1H-2-benzazepine hydrochloride | 7.36 mmol, 1.80 g | Cl.OC1CNCC2=C(C1)C=CC(=C2)[N+](=O)[O-]
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-Hydroxy-2,3,4,5-tetrahydro-1H-2-benzazepin-8-amine hydrochloride | 1.44 g, 91% | Cl.OC1CNCC2=C(C1)C=CC(=C2)N | InChI=1S/C10H14N2O.ClH/c11-9-2-1-7-4-10(13)6-12-5-8(7)3-9;/h1-3,10,12-13H,4-6,11H2;1H
